US06172228B2
The reaction was carried out in the same manner as in Preparation Example 4 except for using 5-chloropentanesulfonyl chloride (3.08 g, 15 mmol) in place of 6-chlorohexanesulfonyl chloride, and n-propanolamine (2.48 g, 33 mmol) in place of ethanolamine in Preparation Example 4, to give a by-product [N,O-bis(5-chloropetanesulfonyl)propanolamine] from a first eluted fraction in the amount of 0.64 g and N-(3-hydroxypropyl)-5-chloropentanesulfonamide from a second eluted fraction as a colorless waxy product in the amount of 2.76 g.

reactant | 5-chloropentanesulfonyl chloride | 15 mmol, 3.08 g | ClCCCCCS(=O)(=O)Cl | C5H10Cl2O2S
reactant | n-propanolamine | 33 mmol, 2.48 g | C(CN)CO | C3H9NO
product | N-(3-hydroxypropyl)-5-chloropentanesulfonamide | OCCCNS(=O)(=O)CCCCCCl | C8H18ClNO3S
